US04035509
25.0 G. of 2-carboxy-5-oxo-5H-dibenzo[a,d]cycloheptene is added to a mixture of 4.0 g. of sodium hydroxide in 500 ml. of aqueous methanol. The mixture is stirred for 3 hours at room temperature, then the mixture is evaporated to afford sodium (5-oxo-5H-dibenzo[a,d]cylohepten--yl)carboxylate -yl)-carboxylate (m.p. 300° C). By employing 5.6 g. of potassium hydroxide in place of the sodium hydroxide above, there is obtained potassium (5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)carboxylate.

reactant | 2-carboxy-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(O)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C16H10O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | CO | CH4O
product | sodium (5-oxo-5H-dibenzo[a,d]cylohepten--yl)carboxylate | O=C1C2=C(C=CC3=C1C=CC=C3C(=O)[O-])C=CC=C2.[Na+] | InChI=1S/C16H10O3.Na/c17-15-11-5-2-1-4-10(11)8-9-12-13(15)6-3-7-14(12)16(18)19;/h1-9H,(H,18,19);/q;+1/p-1
